US08703808B2
A mixture of 3-pyridylacetic hydrochloride reduced in powder (2.36 g, 13.6 mmol, 1.0 eq.) in acetic anhydride was heated in a sealed tube at 85° C. for 60 minutes and then, 5-methoxyindole (2 g, 13.6 mmol, 1.0 eq.) was added. The whole was heated at 85° C. for 20 minutes and then, 105° C. for 30 minutes. The reaction was allowed to cool to room temperature and then ethyl acetate and water were added. The pH was adjusted to 7 with saturated aqueous sodium carbonate. The aqueous layer was extracted with ethyl acetate and then, the organic layer was dried over MgSO4. The solvent was removed under reduced pressure and the residue purified by silica gel flash-column chromatography (eluent: CH2Cl2/EtOH, 96/4 to 94/6). The product impure was triturated with ethanol and diethyl ether to afford 1-(5-methoxy-1H-indol-3-yl)-2-pyridin-3-yl-ethanone as a beige powder (1.74 g, 48%).

reactant | hydrochloride | Cl | ClH
reactant | 5-methoxyindole | 13.6 mmol, 2 g, 1.0 eq. | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 1-(5-methoxy-1H-indol-3-yl)-2-pyridin-3-yl-ethanone | 1.74 g, 48% | COC=1C=C2C(=CNC2=CC1)C(CC=1C=NC=CC1)=O | C16H14N2O2
